US05470987
9,9-Bis{4-(4-nitrophthalimido)phenyl}fluorene
A mixture of 9,9-bis(4-aminophenyl)fluorene (3.5 g, 10 mmol) and 40 ml of acetic acid was stirred and then 4-nitrophthalic anhydride (4.1 g, 21 mmol) was added to the mixture. The resulting mixture was stirred and heated under reflux for 7 hours. After cooling, the beige-colored precipitate was filtered, washed with acetic acid (2×100 ml) and then with water (500 ml). The washed precipitate was recrystallized from dimethylformamide-methanol to provide the title compound as an off-white powder (5.1 g, 73% yield) having a melting point of 360°-363° C.

reactant | 9,9-bis(4-aminophenyl)fluorene | 10 mmol, 3.5 g | NC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)N | C25H20N2
reactant | 4-nitrophthalic anhydride | 21 mmol, 4.1 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 9,9-Bis{4-(4-nitrophthalimido)phenyl}fluorene | 5.1 g, 73% yield | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)C2(C3=CC=CC=C3C=3C=CC=CC23)C2=CC=C(C=C2)N2C(C=3C(C2=O)=CC(=CC3)[N+](=O)[O-])=O)=CC1 | C41H22N4O8
